US08222266B2
4-(2-fluorophenyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride (E9)
4-[4-(2-Fluoro-phenyl)-2-oxo-2H-pyrimidin-1-yl]-butyraldehyde (Prep41, 50 mg, 0.19 mmol) was dissolved in DCE (5.5 ml). The resulting solution was cooled at 0° C. and then (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 53 mg, 0.23 mmol), AcOH (13 μl) and NaBH(AcO)3 (45 mg, 0.21 mmol) were added. The mixture was stirred for 10 minutes at 0° C. 1N NaOHaq was added and the product was extracted with DCM. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with DCM-MeOH—NH4OH (20-0.2-0.2) to give 52 mg of the title compound (58% yield) as a free base.

reactant | 4-[4-(2-Fluoro-phenyl)-2-oxo-2H-pyrimidin-1-yl]-butyraldehyde | 0.19 mmol, 50 mg | FC1=C(C=CC=C1)C1=NC(N(C=C1)CCCC=O)=O | C14H13FN2O2
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.23 mmol, 53 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | AcOH | 13 μl | CC(=O)O | C2H4O2
reactant | NaBH(AcO)3 | 0.21 mmol, 45 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | DCE | 5.5 ml | ClCCCl | C2H4Cl2
product | 4-(2-fluorophenyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride | 52 mg, 58% yield | Cl.FC1=C(C=CC=C1)C1=NC(N(C=C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C26H25F4N3O.ClH/c27-22-6-2-1-5-21(22)23-11-14-33(24(34)31-23)13-4-3-12-32-16-20-15-25(20,17-32)18-7-9-19(10-8-18)26(28,29)30;/h1-2,5-11,14,20H,3-4,12-13,15-17H2;1H/t20-,25+;/m0./s1
